Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-0.22983624889
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.5702246432799998
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]([H:9])[H:10],1.62691152
[C:5]([H:6])([H:7])=[C:8]=[O:9].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],1.7682839057
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.28552470741
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12].[O:1],3.88595439441
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.372111427598
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][O:2][C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.19407631342
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:12]([C:9]([O:8])([H:10])[H:11])([H:13])[H:14],3.38871744
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9],1.9001638945
[H:1][C:2][O:3]/[C:4]=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.65026282631
[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.84358419518
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[O:8],0.80584139911
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.93405505192
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][C:9]([H:10])[H:11].[H:5],1.62325013259
[H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.94494530927
[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.14234732639
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.22721055429
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]#[C:8][H:9],5.06623101523
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:6],1.93333196283
[C:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.15855667965
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2][O:3][C:4]#[C:5][H:6],1.56946847366
[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.97766692888
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.7974020048
[C:1]#[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],6.45754412553
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4],5.01059208572
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:8]([H:9])([H:10])[H:11],3.7402436973
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.59999681615
